US05106962
To a solvent mixture of 35 ml of methylene chloride and 15 ml of water were added 500 mg (1.21 mmol) of 9-(2,5-di-O-acetyl-3-bromo-3-deoxy-β-D-xylofuranosyl)adenine, 2.09 g (12.0 mmols) of Na2S2O4 and 995 mg (7.2 mmols) of K2CO3. The mixture was stirred for a while in an argon atmosphere. Then 308 mg (0.6 mmol) of N,N'-diheptyl-4,4'-bipyridinium dibromide was added and the mixture was stirred at 28° C. for 15 hours. Furthermore, 418 mg of Na2S2C4, 380 mg of K2CO3 and 185 mg (0.36 mmol) of N,N'-diheptyl-4,4'-bipyridinium dibromide were supplemented followed by stirring for 24 hours. To the mixture was added 50 ml of methylene chloride. The mixture was fractionated and the organic phase was dried over anhydrous magnesium sulfate. After filtering and concentration, the concentrate was purified by silica gel PTLC [Whatman PLK-5F, developed with ethyl acetate-methanol (8:1)] to give 276 mg (83%) of 5'-O-acetyl-2',3'-didehydro-2',3'-dideoxyadenosine.

reactant | 9-(2,5-di-O-acetyl-3-bromo-3-deoxy-β-D-xylofuranosyl)adenine | 1.21 mmol, 500 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]1Br)COC(C)=O)N1C2=NC=NC(=C2N=C1)N | C14H16BrN5O5
reactant | Na2S2O4 | 12.0 mmols, 2.09 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | K2CO3 | 7.2 mmols, 995 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N'-diheptyl-4,4'-bipyridinium dibromide | 0.6 mmol, 308 mg | [Br-].[Br-].C(CCCCCC)[N+]1=CC=C(C=C1)C1=CC=[N+](C=C1)CCCCCCC
reactant | K2CO3 | 380 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N'-diheptyl-4,4'-bipyridinium dibromide | 0.36 mmol, 185 mg | [Br-].[Br-].C(CCCCCC)[N+]1=CC=C(C=C1)C1=CC=[N+](C=C1)CCCCCCC
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 15 ml | O | H2O
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 5'-O-acetyl-2',3'-didehydro-2',3'-dideoxyadenosine | 276 mg, 83% | C(C)(=O)OC[C@@H]1C=C[C@@H](O1)N1C=NC=2C(N)=NC=NC12 | C12H13N5O3
